US05041458
Preparation of N-[(1,1-bis(4-Fluorophenyl)ethyl)]-1H-1,2,4-triazol-1-amine
A solution of 10 mL (1.5M, 150 mmol) of methyllithium in 30 mL of tetrahydrofuran was cooled to -78° C. A solution of 2.0 g (7.0 mmol) of N-[bis(4-fluorophenyl)methylene]-1H-1,2,4-triazol-1-amine in 10 mL tetrahydrofuran was added dropwise. The solution was stirred 10 min. quenched with saturated ammonium chloride and warmed to room temperature. Dilution with ethyl acetate, washing with water and brine, drying (MgSO4) and removal of solvent gave product as a viscous oil. Chromatography on silica gel (10:1 methylene chloride-acetate) gave of desired product as a white solid; yield 1.1 g, mp 114°-119° C.

reactant | methyllithium | 150 mmol, 1.5M, 10 mL | C[Li]
reactant | N-[bis(4-fluorophenyl)methylene]-1H-1,2,4-triazol-1-amine | 7.0 mmol, 2.0 g | FC1=CC=C(C=C1)C(=NN1N=CN=C1)C1=CC=C(C=C1)F | C15H10F2N4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[(1,1-bis(4-Fluorophenyl)ethyl)]-1H-1,2,4-triazol-1-amine | FC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)F)NN1N=CN=C1 | C16H14F2N4
